US07547680B2
3-Hydroxy-4-phenylbenzaldehyde
3-Methoxy-4-phenylbenzaldehyde (23.0 g) was dissolved in dichloromethane (150 mL). To the stirred mixture was added dropwise boron tribromide (15.4 mL) under ice-cooling, and the mixture was stirred at room temperature for 2 hours. To the stirred reaction mixture was added dropwise water (20 mL) under ice-cooling, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The obtained residue was suspended in methanol (100 mL) and 2 mol/L hydrochloric acid (50 mL), and the mixture was stirred at 50° C. for 2 hours. To the reaction mixture was added brine, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by column chromatography on silica gel (eluent: ethyl acetate/hexane=1/5) to give the title compound (13.8 g).

reactant | 3-Methoxy-4-phenylbenzaldehyde | 23.0 g | COC=1C=C(C=O)C=CC1C1=CC=CC=C1 | C14H12O2
reactant | boron tribromide | 15.4 mL | B(Br)(Br)Br | BBr3
reactant | water | 20 mL | O | H2O
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 3-Hydroxy-4-phenylbenzaldehyde | 13.8 g | OC=1C=C(C=O)C=CC1C1=CC=CC=C1 | C13H10O2
